US07037908B2
N-(3,4-dichlorobenzyl)-2-(4-fluoro-2-(methylsulfonyl)phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide.
Prepared according to the procedure described for example 2 from 2-(4-fluoro-2-methanesulfonyl-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (74.07 mg, 0.20 mmol) and 3,4-dichlorobenzylamine (132 mg, 0.75 mmol). The title product was obtained as a pink solid (69 mg, 92% yield). 1HNMR (500 MHz, CDCl3) δ: 12.00 (1H, s), 7.87 (1H, dd, J=7.63, 2.45 Hz), 7.60 (1H, t, J=7.60 Hz), 7.50–7.42 (2H, m), 7.39 (1H, d, J=7.93 Hz), 7.32 (1H, s), 7.11 (1H, d, J=7.32 Hz), 4.55 (1H, dd, J=15.26, 6.41 Hz), 4.49 (1H, dd, J=15.26, 6.10 Hz), 3.26 (3H, s), 3.06 (3H, s). HRMS (ESI) calcd for C20H17Cl2FN3O5S (M+H): 500.0250; found: 500.0259.

reactant | 2-(4-fluoro-2-methanesulfonyl-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.20 mmol, 74.07 mg | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)C1=C(C=C(C=C1)F)S(=O)(=O)C | C15H15FN2O6S
reactant | 3,4-dichlorobenzylamine | 0.75 mmol, 132 mg | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
product | N-(3,4-dichlorobenzyl)-2-(4-fluoro-2-(methylsulfonyl)phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide | ClC=1C=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C2=C(C=C(C=C2)F)S(=O)(=O)C)C=CC1Cl | C20H16Cl2FN3O5S
